US06319702B1
According to example 142, 3.27 g of tert-butyl (2R, 3S)-(−)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate was alkylated with 2.23 g of 3-(3-pentyl)benzyl bromide in 70 mL of anhydrous TBF using 9.71 mL of 1 M sodium bis(trimethylsilyl)amide in THF. The crude product was subjected to flash chromatography on silica gel (9:1 hexane:EtOAc) and then recrystallization from EtOH-water to afford 2.26 g (48%) of tert-butyl (2R,3S,5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)4-morpholinecarboxylate as a white crystalline solid, m.p. 143-144° C.

reactant | tert-butyl (2R, 3S)-(−)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate | 3.27 g | O=C1O[C@@H]([C@@H](N(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO4
reactant | 3-(3-pentyl)benzyl bromide | 2.23 g | CCC(CC)C=1C=C(CBr)C=CC1 | C12H17Br
reactant | sodium bis(trimethylsilyl)amide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl (2R,3S,5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)4-morpholinecarboxylate | 2.26 g, 48% | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=CC=C1)C(CC)CC)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C33H39NO4
